US06063791
3-[[1-[[3-[(2,4-Dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-pyrrolidin-2-yl]carbonylamino]propionic acid methyl ester
A mixture of 6.85 g (13.4.10-3 mol) of N-[[3-[(2,4-dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-L-proline, 2.01 g (14.7.10-3 mol) of HOAT and 2.83 g (14.7.10-3 mol) of EDCI in 50 ml of dimethylformamide is prepared. After stirring for 15 min at room temperature, this mixture is added dropwise to a solution of 2.06 g of methyl 4-aminobutyrate (in the form of the hydrochloride) in 35 ml of dimethylformamide and 1.48 ml (13.4.10-3 mol) of N-methylmorpholine. The reaction mixture is stirred for 20 hours at room temperature and 500 ml of dichloromethane are then added, followed by 300 ml of water. After decantation, the organic phase is washed twice with water again, dried over sodium sulfate and then concentrated under reduced pressure. The crude product obtained is purified by chromatography on silica gel using a cyclohexane/ethyl acetate mixture (3/7; v/v) as the eluent to give 5.3 g of the expected product in the form of yellow crystals (yield=64.5%).

reactant | N-[[3-[(2,4-dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-L-proline | 6.85 g | CC1=NC2=C(C=CC=C2C(=C1)C)OCC=1C(=C(C=CC1Cl)S(=O)(=O)N1[C@H](C(=O)O)CCC1)Cl | C23H22Cl2N2O5S
reactant | HOAT | 2.01 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 2.83 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | methyl 4-aminobutyrate | 2.06 g | NCCCC(=O)OC | C5H11NO2
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | N-methylmorpholine | 1.48 ml | CN1CCOCC1 | C5H11NO
solvent | water | 300 ml | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-[[1-[[3-[(2,4-Dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-pyrrolidin-2-yl]carbonylamino]propionic acid methyl ester | 5.3 g | COC(CCNC(=O)C1N(CCC1)S(=O)(=O)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C(=CC(=NC12)C)C)Cl)=O | C27H29Cl2N3O6S
